US07348438B2
5,6-Dichloro-1-(3-methoxy-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole
To 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole (368 mg) in DMF (5 mL) was added potassium carbonate powder (567 mg) and 3-methoxybenzyl bromide (825 mg). The resulting mixture was stirred at room temperature overnight. The reaction mixture was quenched with water, extracted with EtOAc, and dried over Na2SO4. The crude product was purified by silica gel chromatography (10%-40% EtOAc/hexanes), followed by dissolution in CH2Cl2 and trituration with hexanes to yield the title compound as a peach solid.

reactant | 5,6-dichloro-2-(2,2,2-trifluoro-ethyl)-1H-benzimidazole | 368 mg | ClC1=CC2=C(NC(=N2)CC(F)(F)F)C=C1Cl | C9H5Cl2F3N2
reactant | potassium carbonate | 567 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-methoxybenzyl bromide | 825 mg | COC=1C=C(CBr)C=CC1 | C8H9BrO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5,6-Dichloro-1-(3-methoxy-benzyl)-2-(2,2,2-trifluoro-ethyl)-1H-benzoimidazole | ClC1=CC2=C(N(C(=N2)CC(F)(F)F)CC2=CC(=CC=C2)OC)C=C1Cl | C17H13Cl2F3N2O
